US03978127
C. 2-(α,α ,β ,β-Tetrafluorophenethyl)phenylacetonitrile
2-(α,α,β ,β-Tetrafluorophenethyl)benzyl bromide, 3.5 g. (0.01 mole), and 2.0 g. (0.0308 mole) of potassium cyanide are dissolved in 35 ml. of acetone - 5 ml. of water and the solution is heated to refluxing for about 18 hours. The organic phase is separated, acetone is distilled under reduced pressure, and the residual oil is dissolved in benzene. Evaporation of the washed and dried benzene extract under reduced pressure leaves the product as the residual brown oil.

reactant | 2-(α,α,β ,β-Tetrafluorophenethyl)benzyl bromide | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(CBr)C=CC=C1 | C15H11BrF4
reactant | potassium cyanide | 0.0308 mole | [C-]#N.[K+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(α,α ,β ,β-Tetrafluorophenethyl)phenylacetonitrile | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(C=CC=C1)CC#N | C16H11F4N
